US08106233B2
Preparation of 2-ethylhexyl 2-cyano-3,3,-diphenyl-propionate
2-Ethylhexyl 2-cyano-3,3-diphenylacrylate (Eusolex® OCR; Merck) is dissolved in tetrahydrofuran (THF), and 5% Pd/C (56% water; Merck: Art. No. 275175) is added. The hydrogenation is subsequently carried out with hydrogen 3.0 at room temperature and atmospheric pressure. The catalyst is separated off by filtration. The filtrate is freed from solvent in vacuo, and the residue is washed. The organic phase is dried over sodium sulfate, and the solvent is removed in vacuo. The purification is carried out by filtration through silica gel, giving analytically pure product.

reactant | 2-Ethylhexyl 2-cyano-3,3-diphenylacrylate | C(#N)C(C(=O)OCC(CCCC)CC)=C(C1=CC=CC=C1)C1=CC=CC=C1 | C24H27NO2
reactant | water | O | H2O
reactant | hydrogen 3 | [3H][3H] | H2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | Pd/C | [Pd] | Pd
product | 2-ethylhexyl 2-cyano-3,3,-diphenyl-propionate | C(#N)C(C(=O)OCC(CCCC)CC)C(C1=CC=CC=C1)C1=CC=CC=C1 | C24H29NO2
